US07994317B2
d) Preparation of cis-4-(methylamino)cyclohexanecarboxylic acid
The methyl cis-4-(methylamino)cyclohexanecarboxylate (3 g, 0.0175 mol) from above was dissolved in a THF/H2O (10 mL) mixture and was cooled to 0° C. Next 2 L of a 0.025 M solution of NaOH was added slowly. The mixture was stirred a 0° C. for another 0.5 hour. The mixture was then acidified to pH 7-8 and extracted with ethyl acetate. The water layer was acidified to pH 3-4 and extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated to give 2.49 g (0.016 mol, 90% yield) of product.

reactant | methyl cis-4-(methylamino)cyclohexanecarboxylate | 0.0175 mol, 3 g | CN[C@H]1CC[C@H](CC1)C(=O)OC | C9H17NO2
reactant | NaOH | [OH-].[Na+]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | cis-4-(methylamino)cyclohexanecarboxylic acid | 0.016 mol, 2.49 g, 90% yield | CN[C@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
